US04978476
D. 1-Trifluoroacetyl-2-(4-methylphenyl)benzimidazole
To a solution of 166.6 g (0.8 mole) of 2-(4-methylphenyl)benzimidazole in anhydrous ether is added 847.9 g (8 mole) of sodium carbonate. The mixture is cooled to 0° C., and 1.68 kg (8 mole) of trifluoroacetic anhydride is added. After addition is complete, and the reaction mixture is stirred for 20 minutes at room temperature, the mixture is poured into rapidly stirred ice water to destroy the excess anhydride, and the layers are separated. The aqueous portion is extracted with ether, and the combined organics are washed with water, dried over 4A sieves, and evaporated. The crude product is purified by recrystallization from ethanol.

reactant | 2-(4-methylphenyl)benzimidazole | 0.8 mole, 166.6 g | CC1=CC=C(C=C1)C=1NC2=C(N1)C=CC=C2 | C14H12N2
reactant | sodium carbonate | 8 mole, 847.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | trifluoroacetic anhydride | 8 mole, 1.68 kg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ether | CCOCC | C4H10O
product | 1-Trifluoroacetyl-2-(4-methylphenyl)benzimidazole | FC(C(=O)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C)(F)F | C16H11F3N2O
